US03952037
To a mixture of 3.8 g of the complex obtained in Example 1 and 97.3 g of toluene were added dropwise 83 g of ethylbromide at 20° to 25°C over 1 hour and a half while stirring. The reaction solution was held at 50° to 60°C for 1 hour after a dropwise addition, washed with water then alkali and rectified to obtain 64.2 g of ethyltoluene distillate. The resulting distillate was a mixture consisting of m- and p-isomers as main ingredients and a msall amount of o-isomer.

reactant | ethylbromide | 83 g | C(C)Br | C2H5Br
reactant | toluene | 97.3 g | C1(=CC=CC=C1)C | C7H8
product | ethyltoluene | 64.2 g | C(C)C1=C(C=CC=C1)C | C9H12
